US09403831B2
(S)-1-(4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone (58 mg, 0.084 mmol) was dissolved in CH2Cl2 (5 ml), and then 4 N HCl in dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was purified with ether to give (S)-1-(4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone hydrochloride (47 mg, 90%).

reactant | (S)-1-(4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone | 0.084 mmol, 58 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | C30H34N12O2
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone hydrochloride | 47 mg, 90% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | InChI=1S/C30H34N12O2.ClH/c1-21(43)40-9-7-39(8-10-40)17-22-3-5-23(6-4-22)24-13-32-30(33-14-24)41-11-12-44-26(19-41)20-42-29-28(36-37-42)31-16-27(35-29)25-15-34-38(2)18-25;/h3-6,13-16,18,26H,7-12,17,19-20H2,1-2H3;1H/t26-;/m0./s1
